US05594004
(a) Di-t-butyl [[4-[[N-[3-(1-t-butyloxycarbonylpiperidin-4-yl)propionyl]-N-methylamino]acetyl]-o-phenylene]dioxy]diacetate
3-(1-t-butyloxycarbonylpiperidin-4-yl)propionic acid (257 mg), di-t-butyl [[4-[(N-methylamino)acetyl]-o-phenylene]dioxy]diacetate hydrochloride (446 mg), N-methylmorpholine (101 mg), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP reagent, 442 mg), and a catalytic amount of 4-dimethylaminopyridine were dissolved in 5 ml of dimethylformamide, and the mixture was stirred at room temperature for 3 hours. After ethyl acetate (100 ml) was added to the reaction mixture, the resulting mixture was washed with water. The solvents were removed under reduced pressure. The residual mixture was purified by column chromatography on silica gel to give 285 mg of the title compound from the fraction eluted with n-hexan:ethyl acetate=3:1.

reactant | 3-(1-t-butyloxycarbonylpiperidin-4-yl)propionic acid | 257 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | di-t-butyl [[4-[(N-methylamino)acetyl]-o-phenylene]dioxy]diacetate hydrochloride | 446 mg | Cl.CNCC(=O)C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)OCC(=O)OC(C)(C)C
reactant | N-methylmorpholine | 101 mg | CN1CCOCC1 | C5H11NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 442 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Di-t-butyl [[4-[[N-[3-(1-t-butyloxycarbonylpiperidin-4-yl)propionyl]-N-methylamino]acetyl]-o-phenylene]dioxy]diacetate | 285 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N(C)CC(=O)C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)OCC(=O)OC(C)(C)C | C34H52N2O10
